US07427683B2
b) 3-Methyl-2-piperidin-1-yl-phenylamine
Using a procedure similar to Example 3, step (c), 1-(2-methyl-6-nitro-phenyl)-piperidine (74 mg, 0.38 mmol, as prepared in the previous step) was stirred with 5% Pd—C (50 mg) under H2 to afford 66 mg (91%) of the title compound as an oil. Mass spectrum (ESI, m/z): Calcd. for C12H18N2, 191.1 (M+H), found 191.1.

reactant | 1-(2-methyl-6-nitro-phenyl)-piperidine | CC1=C(C(=CC=C1)[N+](=O)[O-])N1CCCCC1 | C12H16N2O2
catalyst | Pd—C | 50 mg | [Pd] | Pd
product | 3-Methyl-2-piperidin-1-yl-phenylamine | 66 mg, 91% | CC=1C(=C(C=CC1)N)N1CCCCC1 | C12H18N2
